US09212196B2
diisopropyl(4-formylphenoxy)methylphosphonate
To a solution of 4-hydroxybenzaldehyde (152 mg, 1.25 mmol) in DMF (20 mL) was added potassium carbonate (223 mg, 1.62 mmol), followed by diisopropyl bromomethylphosphonate (484 mg, 1.87 mmol). The mixture was heating in DMF at 90° C. under stirring for 17 hours. After evaporation of DMF under reduced pressure, 100 mL of water were added and the mixture was extracted with ethyl acetate (3*200 mL). The organic phase was washed with brine (100 mL), dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography over silica gel (eluent: cyclohexane/ethyl acetate (5:5)) to give 98.2 mg of an oil (26% yield). 1H NMR (250 MHz, CDCl3): δ 1.33 (t, J=6.0 Hz, 12H), 4.25 (d, J=10.2 Hz, 2H), 4.82 (q, J=6.0 Hz, 2H), 7.05 (d, J=8.7 Hz, 2H), 7.81 (d, J=8.7 Hz, 2H), 9.87 (s, 1H). 13C NMR (126 MHz, CDCl3): δ 25.4 (dd, J=12.7; 3.4 Hz), 64.0 (d, J=171.0 Hz) 73.3 (d, J=6.2 Hz), 116.3, 132.2, 133.3, 164.8 (d, J=13.4 Hz), 192.0. 31P NMR (202 MHz, CDCl3): δ 16.0

reactant | 4-hydroxybenzaldehyde | 1.25 mmol, 152 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 1.62 mmol, 223 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropyl bromomethylphosphonate | 1.87 mmol, 484 mg | BrCP(OC(C)C)(OC(C)C)=O | C7H16BrO3P
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | diisopropyl(4-formylphenoxy)methylphosphonate | 98.2 mg, 26% yield | C(C)(C)OP(OC(C)C)(=O)COC1=CC=C(C=C1)C=O | C14H21O5P
